US06852893B2
0.3 mmol of N-hydroxyphthalimide and 0.6 mmol of cumene hydroperoxide are added at a temperature of 125° C. to 30 mmol of toluene in a round-bottomed flask having an attached reflux condenser. The reaction mixture is stirred for 8 hours at said temperature under an oxygen atmosphere of 1 bar. Benzyl hydroperoxide is obtained at a selectivity of 51.7% at a toluene conversion rate of 8%. Other products are benzaldehyde (24.6%) and benzoic acid (23.6%).

reactant | N-hydroxyphthalimide | 0.3 mmol | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | cumene hydroperoxide | 0.6 mmol | [O-]O.C1(=CC=CC=C1)C(C)C
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Benzyl hydroperoxide | C(C1=CC=CC=C1)OO | C7H8O2
